US07129238B2
(RS)-(4-Bromo-2-fluoro-phenyl)-methoxy-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure C to give (RS)-2-(4-bromo-2-fluoro-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide. Light yellow gum.

reactant | (RS)-(4-Bromo-2-fluoro-phenyl)-methoxy-acetic acid | BrC1=CC(=C(C=C1)C(C(=O)O)OC)F | C9H8BrFO3
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-2-(4-bromo-2-fluoro-phenyl)-N-(4-cyano-benzyl)-2-methoxy-acetamide | BrC1=CC(=C(C=C1)C(C(=O)NCC1=CC=C(C=C1)C#N)OC)F | C17H14BrFN2O2
